US04065620
7-(2'-amino-2'-phenylacetamido)-3-(2'-carboxyvinyl)-3-cephem-4-carboxylic acid
A solution of 25 mg. of tert-butyl 7-(2'-tert-butoxycarbonylamino-2'-phenylacetamido)-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate, prepared as described in Example 19, in 5 cc of 98-100 percent formic acid was allowed to stand for 1 hour at room temperature. After evaporating under reduced pressure the formic acid, the acid residue was taken up in trifluoroacetic acid and the NMR spectrum was taken. The trifluoroacetic acid was removed under reduced pressure and the acid residue showed a β-lactam in the IR spectrum and an acceptable UV [λ max.=317 mμ (ε = 13,700)]. The bioautograph showed only one antibiotically active zone against Sarcina lutea, which was more polar than cephalexin. Disc plate assay procedures showed antibiotic activity against a variety of Gram positive and Gram negative microorganisms.

reactant | tert-butyl 7-(2'-tert-butoxycarbonylamino-2'-phenylacetamido)-3-(2'-tert-butoxycarbonylvinyl)-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)NC(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=O)C1=CC=CC=C1 | C31H41N3O8S
solvent | formic acid | 5 cc | C(=O)O | CH2O2
product | 7-(2'-amino-2'-phenylacetamido)-3-(2'-carboxyvinyl)-3-cephem-4-carboxylic acid | NC(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC(=O)O)C(=O)O)C1=O)C1=CC=CC=C1 | C18H17N3O6S
